US07902400B2
At room temperature, 1.2 ml of tetrabutylammonium fluoride (1M tetrahydrofuran solution) was added dropwise to a mixture of 4 ml of tetrahydrofuran and 291 mg of 7-[3,5-difluoro-4-(2-propynyloxy)benzoyl]-7-azabicyclo[4.1.0]heptane. This mixture was stirred at room temperature for 1 hour. Then, an aqueous saturated ammonium chloride solution was added to the reaction mixture, and this was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.13 g of N-(2-fluorocyclohexyl)-3,5-difluoro-4-(2-propynyloxy)benzamide (hereinafter, described as the compound 114 of the present invention) represented by the formula:

reactant | tetrabutylammonium fluoride | 1M, 1.2 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 7-[3,5-difluoro-4-(2-propynyloxy)benzoyl]-7-azabicyclo[4.1.0]heptane | 291 mg | FC=1C=C(C(=O)N2C3CCCCC23)C=C(C1OCC#C)F | C16H15F2NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | N-(2-fluorocyclohexyl)-3,5-difluoro-4-(2-propynyloxy)benzamide | 0.13 g | FC1C(CCCC1)NC(C1=CC(=C(C(=C1)F)OCC#C)F)=O | C16H16F3NO2
